US07244725B2
Step One: tert-butyl (4S)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-2H-chromen-4-ylcarbamate.
To a mixture of tert-butyl (4S)-6-iodo-3,4-dihydro-2H-chromen-4-ylcarbamate (3.30 g, 8.8 mmol) and bis(pinacolato)diboron (2.51 g, 9.7 mmol) in methyl sulfoxide (30 mL) was added potassium acetate (2.60 g, 26.4 mmol) followed by [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (410 mg, 0.5 mmol). The reaction mixture was heated under argon at 80° C. for 2 h and then cooled to room temperature. The reaction mixture was diluted with ethyl ether (100 mL) and washed with water and saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica gel, 10–20% ethyl acetate/hexanes) provided the desired product (3.25 g, 98%): 1H NMR (300 MHz, CDCl3) δ 7.72 (s, 1H), 7.62 (dd, J=8.2, 1.5 Hz, 1H), 6.80 (d, J=8.2 Hz, 1H), 4.79 (m, 2H), 4.31–4.24 (m, 1H), 4.21–4.15 (m, 1H), 2.14–2.11 (m, 2H), 1.48 (s, 9H), 1.34 (s, 6H), 1.33 (s, 6H).

reactant | tert-butyl (4S)-6-iodo-3,4-dihydro-2H-chromen-4-ylcarbamate | 8.8 mmol, 3.30 g | IC=1C=C2[C@H](CCOC2=CC1)NC(OC(C)(C)C)=O | C14H18INO3
reactant | bis(pinacolato)diboron | 9.7 mmol, 2.51 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 26.4 mmol, 2.60 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.5 mmol, 410 mg | ClCCl | CH2Cl2
solvent | methyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
product | tert-butyl (4S)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-2H-chromen-4-ylcarbamate | 3.25 g, 98% | CC1(OB(OC1(C)C)C=1C=C2[C@H](CCOC2=CC1)NC(OC(C)(C)C)=O)C | C20H30BNO5
